US08202858B2
1-(4-[1,3]Dioxolan-2-yl-piperidin-1-yl)-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one
HBTU (327 mg, 0.86 mmol) was added to a solution of 4-[1,3]dioxolan-2-yl-piperidine from Example E33 (143 mg, 0.91 mmol) and 3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic acid from Example E45 (320 mg, 0.82 mmol) in dichloromethane (20 ml) and DIEA (0.7 ml, 4.02 mmol) and the mixture was stirred for 20 h at room temperature. Dichloromethane was added and the solution was washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 4% methanol:96% dichloro-methane to 8% methanol:92% dichloromethane) to give a white solid identified as the title compound (359 mg, 83%).

reactant | HBTU | 0.86 mmol, 327 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-[1,3]dioxolan-2-yl-piperidine | O1C(OCC1)C1CCNCC1 | C8H15NO2
reactant | 3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic acid | CC1=C(C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)CCC(=O)O | C22H22N4O3
reactant | DIEA | 4.02 mmol, 0.7 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(4-[1,3]Dioxolan-2-yl-piperidin-1-yl)-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one | 359 mg, 83% | O1C(OCC1)C1CCN(CC1)C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C30H35N5O4
